US07326699B2
cis-5-(3-Benzyloxy-phenyl)-6-methyl-7-[3-(4-methyl-piperazin-1-ylmethyl)-cyclobutyl]-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
The title compound is prepared in a one pot reaction in analogy to Example 116 starting from 0.35 g (0.84 mmol) cis-{3-[4-amino-5-(3-benzyloxy-phenyl)-6-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutyl}-methanol and 0.328 g (1.69 mmol) p-toluenesulfonyl chloride in 3.5 ml dry pyridine, followed by 3.5 ml (31.2 mmol) 1-methyl piperazine. Analytical HPLC: tR=8.14 min (Grad 1); ES-MS: m/eo=497.3; NMR (DMSO-d6; not all data reported): 8.08/s (1H), 7.25-7.45/several m's (6H), 7.02/“d” (1H); 6.94/s (1H); 6.89/“d” (1H); 5.4-6.0/b (NH2); 5.13/s (2H); 4.77/m (1H); 2.22/s (3H); 2.12/s (3H).

reactant | cis-{3-[4-amino-5-(3-benzyloxy-phenyl)-6-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutyl}-methanol | 0.84 mmol, 0.35 g | NC=1C2=C(N=CN1)N(C(=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)C)[C@H]2C[C@H](C2)CO | C25H26N4O2
reactant | p-toluenesulfonyl chloride | 1.69 mmol, 0.328 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-methyl piperazine | 31.2 mmol, 3.5 ml | CN1CCNCC1 | C5H12N2
solvent | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
product | cis-5-(3-Benzyloxy-phenyl)-6-methyl-7-[3-(4-methyl-piperazin-1-ylmethyl)-cyclobutyl]-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(N(C=2N=CN=C(C21)N)[C@@H]2C[C@@H](C2)CN2CCN(CC2)C)C | C30H36N6O
